US07241791B2
Step 2: 4-[2-isopropyl-7-methyl-1H-indazol-3-yl]phenol
Prepared according to Method D step C from 2-isopropyl-3-(4-methoxyphenyl)-7-methyl-1H-indazole (0.010 g, 0.035 mmol), boron tribromide (0.05 mL, 0.5 mmol) and 0.2 mL of cyclohexene to give the product (0.007 g).

reactant | 2-isopropyl-3-(4-methoxyphenyl)-7-methyl-1H-indazole | 0.035 mmol, 0.010 g | C(C)(C)N1NC2=C(C=CC=C2C1C1=CC=C(C=C1)OC)C | C18H22N2O
reactant | boron tribromide | 0.5 mmol, 0.05 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.2 mL | C1=CCCCC1 | C6H10
product | 4-[2-isopropyl-7-methyl-1H-indazol-3-yl]phenol | 0.007 g | C(C)(C)N1NC2=C(C=CC=C2C1C1=CC=C(C=C1)O)C | C17H20N2O
